US06869962B2
7-Chloro-2-methylthieno[3,2-b]pyridine
This material was prepared from 7-chlorothieno[3,2-b]pyridine (1.69 g, 10 mmole) by treatment with n-BuLi and iodomethane (2 ml, 4.56 g, 32 mmole) in a manner as previously described for example 1b to give a pale yellow, low-melting solid (1.48 g, 81%). 1H NMR (DMSO-d6): δ8.56 (1H, d, J=5.1 Hz), 7.48 (1H, d, J=5.1 Hz), 7.38 (1H, s), 2.65 (3H, s).

reactant | 7-chlorothieno[3,2-b]pyridine | 10 mmole, 1.69 g | ClC1=C2C(=NC=C1)C=CS2 | C7H4ClNS
reactant | n-BuLi | [Li]CCCC
reactant | iodomethane | 32 mmole, 2 ml, 4.56 g | IC | CH3I
product | 7-Chloro-2-methylthieno[3,2-b]pyridine | 1.48 g, 81% | ClC1=C2C(=NC=C1)C=C(S2)C | C8H6ClNS
